US09227978B2
Methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)propanoate
A mixture of tert-butyl 4-chloro-5-iodo-2-methoxybenzenamine (2 g, 7.07 mmol), methyl 2-bromopropanoate (1.17 g, 7.07 mmol), K2CO3 (1.94 g, 14.14 mmol) and KI (0.235 g, 1.414 mmol) in DMF (25 mL) was stirred at 100° C. for 16 h. The mixture was allowed to cool to RT, quenched with aqueous NaHCO3 solution and then extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (ethyl acetate/petroleum ether=1:20) to afford the desired product (1.12 g, 43% yield) as a yellow solid. ESI-MS m/z: 370.1[M+H]+.

reactant | tert-butyl 4-chloro-5-iodo-2-methoxybenzenamine | 7.07 mmol, 2 g | C(C)(C)(C)C=1C(=C(C=C(C1Cl)I)N)OC | C11H15ClINO
reactant | methyl 2-bromopropanoate | 7.07 mmol, 1.17 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | K2CO3 | 14.14 mmol, 1.94 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(4-chloro-5-iodo-2-methoxyphenylamino)propanoate | 1.12 g, 43% yield | ClC1=CC(=C(C=C1I)NC(C(=O)OC)C)OC | C11H13ClINO3
